US08609897B2
A 1 L 3-neck round bottom flask equipped with a nitrogen bubbler, thermocouple, stir bar and condenser was charged with 4-[5-fluoro-2-(trifluoromethyl)phenyl]-4-{[4-(trifluoromethyl)phenyl]sulfonyl}cyclohexanone (45 g, 96 mmol) in ethanol (464 ml). Next sodium borohydride (9.67 g, 256 mmol) was added and the reaction was stirred for 30 min. The reaction was quenched by adding HCl (200 ml, 2N) slowly over 10 minutes and then the reaction was poured into HCl (2 L, 2N) and extracted with ethyl acetate (3×1 L). The organic layers were washed with brine, dried over MgSO4, filtered and concentrated to provide 4-[5-fluoro-2-(trifluoromethyl)phenyl]-4-{[4-(trifluoromethyl)phenyl]sulfonyl}cyclohexanol.

reactant | 4-[5-fluoro-2-(trifluoromethyl)phenyl]-4-{[4-(trifluoromethyl)phenyl]sulfonyl}cyclohexanone | 96 mmol, 45 g | FC=1C=CC(=C(C1)C1(CCC(CC1)=O)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C20H15F7O3S
reactant | sodium borohydride | 256 mmol, 9.67 g | [BH4-].[Na+]
solvent | ethanol | 464 ml | C(C)O | C2H6O
product | 4-[5-fluoro-2-(trifluoromethyl)phenyl]-4-{[4-(trifluoromethyl)phenyl]sulfonyl}cyclohexanol | FC=1C=CC(=C(C1)C1(CCC(CC1)O)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C20H17F7O3S
